US06391887B1
4-Amino-7-methyl-2,3,3a,9b-tetrahydro-1H-cyclopenta[c]quinoline
In a way that is similar to Example 4, 7-methyl-1,2,3,3a,5,9b-hexahy drocyclopenta[c]quinoline-4-thione (230 mg, 1.05 mmol) in 7N methanolic ammonia solution (25 ml) is reacted to form 210 mg (99%) of product.

reactant | 7-methyl-1,2,3,3a,5,9b-hexahy drocyclopenta[c]quinoline-4-thione | 1.05 mmol, 230 mg | CC=1C=CC=2C3C(C(NC2C1)=S)CCC3 | C13H15NS
reactant | ammonia | 7N, 25 ml | N | H3N
product | 4-Amino-7-methyl-2,3,3a,9b-tetrahydro-1H-cyclopenta[c]quinoline | 210 mg, 99% | NC1=NC=2C=C(C=CC2C2C1CCC2)C | C13H16N2
